US05703106
To a solution of N-butanesulfonyl-(t-butoxycarbonyl)tryptophanamide (0.71 g, 1.68 mmol) and dithiothreitol (47 mg, 0.3 mmol) in 1,4-dioxane (4 ml) is added 4N HCl/1,4-dioxane (20 ml) at more temperature under nitrogen atmosphere and the mixture is stirred for 18 hours. The reaction mixture is concentrated in vacuo and the solid residue is washed with diethyl ether and dried to give N-butanesulfonyl-tryptophanamide hydrochloride.

reactant | N-butanesulfonyl-(t-butoxycarbonyl)tryptophanamide | 1.68 mmol, 0.71 g | C(CCC)S(=O)(=O)NC([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O | C20H29N3O5S
reactant | dithiothreitol | 0.3 mmol, 47 mg | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | HCl 1,4-dioxane | 4N, 20 ml | Cl.O1CCOCC1
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | N-butanesulfonyl-tryptophanamide hydrochloride | Cl.C(CCC)S(=O)(=O)NC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | InChI=1S/C15H21N3O3S.ClH/c1-2-3-8-22(20,21)18-15(19)13(16)9-11-10-17-14-7-5-4-6-12(11)14;/h4-7,10,13,17H,2-3,8-9,16H2,1H3,(H,18,19);1H/t13-;/m0./s1
